US03931411
A mixture containing 26 parts of 2,5-dioxocyclopentaneheptanoic acid, 560 parts of ethanol, 440 parts of benzene and 14.7 parts of concentrated sulfuric acid is slowly distilled over a period of about 40 hours, during which time approximately 200 parts of distillate is collected. The residual mixture is cooled, diluted with approximately 350 parts of ether, then washed successively with dilute aqueous sodium hydroxide and water. The resulting neutral solution is dried over anhydrous sodium sulfate and evaporated by dryness under reduced pressure to afford, as a yellow liquid, ethyl 2-ethoxy-5-oxocyclopent-1-eneheptanoate, which substance is characterized by an ultraviolet absorption maximum at about 253.5 millimicrons.

reactant | 2,5-dioxocyclopentaneheptanoic acid | O=C1C(C(CC1)=O)CCCCCCC(=O)O | C12H18O4
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 2-ethoxy-5-oxocyclopent-1-eneheptanoate | C(C)OC1=C(C(CC1)=O)CCCCCCC(=O)OCC | C16H26O4
